US04880838
Into a dry 250 milliliter round bottom flask equipped with a magnetic stirrer and nitrogen inlet was added 4-amino-2-bromo-3,6-dimethylphenol (11.94 grams, 55.3 mmol) prepared in Part B and dry dimethylsulfoxide (118 milliliters). Potassium t-butoxide (7.26 grams, 64.65 mmol) was added portionwise under nitrogen and the mixture was stirred at room temperature for 0.5 hours. Solid 3,4-dichloronitrobenzene (13.33 grams, 70.52 mmol) was then added and the reaction mixture was heated at 50° C. for 48 hours. After cooling the mixture was diluted with toluene and washed successively with saturated NH4Cl solution (3x) and with 5% NaOH solution until the aqueous washes remained colorless. This was followed by washes with water and brine, drying over Na2SO4 and solvent removal under reduced pressure to afford the crude product (9.4 grams) as a dark red-brown oil. Flash column chromatography on 650 grams of silica gel (3:1 hexane:ethyl acetate) afforded pure 3-bromo-4-(2 -chloro-4-nitrophenoxy)-2,5-dimethylaniline (4.7 grams, 12.6 mmol, 23%) as a yellow-brown solid. H'-NMR (CDCl3) 8.42 (d, J=2 Hz, 1H), 8.01 (d,d; J=2, 9 Hz; 1H), 6.55 (d, J=9 Hz, 1H), 6.58 (S, 1H), 3.73 (brS, 2H), 2.28 (S, 3H), 2.06 (S, 3H).

reactant | 4-amino-2-bromo-3,6-dimethylphenol | 55.3 mmol, 11.94 grams | NC1=C(C(=C(C(=C1)C)O)Br)C | C8H10BrNO
reactant | dimethylsulfoxide | 118 milliliters | CS(=O)C | C2H6OS
reactant | Potassium t-butoxide | 64.65 mmol, 7.26 grams | CC(C)([O-])C.[K+]
reactant | 3,4-dichloronitrobenzene | 70.52 mmol, 13.33 grams | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-bromo-4-(2 -chloro-4-nitrophenoxy)-2,5-dimethylaniline | 12.6 mmol, 4.7 grams, 23% | BrC=1C(=C(N)C=C(C1OC1=C(C=C(C=C1)[N+](=O)[O-])Cl)C)C | C14H12BrClN2O3
